US04563211
Methyl 2-[[[4-(fluoromethyl)-6-methylpyrimidin-2-yl]aminocarbonyl]aminosulfonyl]benzoate
To a stirring solution of 4-methyl-6-fluoromethyl-2-pyrimidinamine (1.4 mmol) in 25 ml of CH2Cl2 was added o-carbomethoxybenzenesulfonyl isocyanate (1.77 mmol). After stirring 16 hours the reaction was concentrated and the resulting solid washed with butyl chloride to afford 0.28 g of the desired product, m.p. 181°-186° C. NMR (90 MHz, CDCl3): δ 2.5 (s, 3H); 4.0 (s, 3H); 5.2 (s, 1H); 5.7 (s, 1H); 7.0 (s, 1H); 7.6 (m, 3H); 8.2 (m, 1H); 10.3 (s, 1H); 12.8 (br. s, 1H).

reactant | 4-methyl-6-fluoromethyl-2-pyrimidinamine | 1.4 mmol | CC1=NC(=NC(=C1)CF)N | C6H8FN3
reactant | o-carbomethoxybenzenesulfonyl isocyanate | 1.77 mmol | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[[[4-(fluoromethyl)-6-methylpyrimidin-2-yl]aminocarbonyl]aminosulfonyl]benzoate | 0.28 g | FCC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H15FN4O5S
